US08486979B2
3-(N-methylsulfamoyl)benzoic acid
The title compound was prepared according to the procedure of Example 50A using 3-(chlorosulfonyl)benzoic acid (Aldrich) and methylamine (Aldrich). 1H NMR (300 MHz, CD3OD) δ 2.54 (s, 3 H), 7.70 (t, J=7.8 Hz, 1 H), 8.02-8.07 (m, 1 H), 8.23-8.28 (m, 1 H), 8.45 (t, J=1.9 Hz, 1 H) ppm; MS (DCI/NH3) m/z 233 (M+NH4)+.

reactant | 3-(chlorosulfonyl)benzoic acid | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
reactant | methylamine | CN | CH5N
reactant | NH3 | N | H3N
product | 3-(N-methylsulfamoyl)benzoic acid | CNS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C8H9NO4S
